### PR TITLE
[Merged by Bors] - feat(NumberTheory/NumberField): proof of the Analytic Class Number Formula

### PR DESCRIPTION
**Pull request by xroblot**
Let `K` be a number field. Define
```lean
def dedekindZeta (s : ℂ) :=
   LSeries (fun n ↦ Nat.card {I : Ideal (𝓞 K) // absNorm I = n}) s
```
and  
```lean
def residue : ℝ :=
   (2 ^ nrRealPlaces K * (2 * π) ^ nrComplexPlaces K * regulator K * classNumber K) /
     (torsionOrder K *  Real.sqrt |discr K|)
```
We prove:
```lean
theorem dedekindZeta_residue :
     Tendsto (fun s : ℝ ↦ (s - 1) * dedekindZeta K s) (𝓝[>] 1) (𝓝 (residue K))
```

---

- [x] depends on: #16675 
- [x] depends on: #16822
- [x] depends on: #12488
- [x] depends on: #12405
- [x] depends on: #17943 
- [x] depends on: #17944 
- [x] depends on: #18130
- [x] depends on: #18166
- [x] depends on: #18231
- [x] depends on: #18246
- [x] depends on: #18245
- [x] depends on: #18248
- [x] depends on: #18400
- [x] depends on: #20660
- [x] depends on: #22115 
- [x] depends on: #22397
- [x] depends on:  #22779
- [x] depends on: #22866
- [x] depends on: #23440
- [x] depends on: #24713

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by xroblot** [comment]
> Can you please fix the error?

Yes, I haven't updated  this PR for quite some time, so it might take a bit to get it ready for review.

**Review by riccardobrasca — COMMENTED** [review]
This is great, thanks!!

File: Mathlib/NumberTheory/NumberField/DedekindZeta.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+
+/-!
+# The Dedekind zeta function of a number field
+
+In this file, we define and prove results about the Dedekind zeta function of a number field.
+
+## Main definitions and results
+
+* `NumberField.dedekindZeta`: the Dedekind zeta function.
+* `NumberField.dedekindZeta_residue`: **Dirichlet class number formula** computation of the
```
[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/DedekindZeta.lean:18]: Thanks. I added a reference to Marcus

**Review by riccardobrasca — COMMENTED** [review]
LGTM. The only concerns I have are about the names `NumberField.residue` that is rather mysterious and `dedekindZeta_residue` that does not follow the name convention. Maybe the first one can be called `dedekindZeta_residue` and the second one `tendsto_dedekindZeta_mul_sub_one` (or `sub_one_mul...`)?

**Comment by xroblot** [comment]
I agree that the names are not really optimal. I was taking [riemannZeta_residue_one](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/LSeries/RiemannZeta.html#riemannZeta_residue_one) as model. However, the names you suggested sounds good too

**Comment by xroblot** [comment]
If I make it a local notation that probably means that the results `residue_pos` and `residue_ne_zero` should be removed, right?

**Comment by riccardobrasca** [comment]
> If I make it a local notation that probably means that the results `residue_pos` and `residue_ne_zero` should be removed, right?

Hmm, we can keep them with some stupid names...

File: Mathlib/NumberTheory/NumberField/DedekindZeta.lean [hunk 2]
```diff
@@ -0,0 +1,76 @@
...
+  refine LSeries_tendsto_sub_mul_nhds_one_of_tendsto_sum_div_and_nonneg _ ?_
+    (fun _ ↦ Nat.cast_nonneg _)
+  refine ((Ideal.tendsto_norm_le_div_atTop₀ K).comp tendsto_natCast_atTop_atTop).congr fun n ↦ ?_
+  simp only [Function.comp_apply, Nat.cast_le, ← Nat.cast_sum]
+  congr
+  rw [← add_left_inj 1, ← card_norm_le_eq_card_norm_le_add_one]
+  rw [show Finset.Icc 1 n = Finset.Ioc 0 n by rfl]
+  rw [show 1 = Nat.card {I : Ideal (𝓞 K) // absNorm I = 0} by simp [Ideal.absNorm_eq_zero_iff]]
+  rw [Finset.sum_Ioc_add_eq_sum_Icc (n.zero_le),
+    ← Finset.card_preimage_eq_sum_card_image_eq (fun k _ ↦ finite_setOf_absNorm_eq k)]
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/DedekindZeta.lean:73]:
```suggestion
  rw [← add_left_inj 1, ← card_norm_le_eq_card_norm_le_add_one,
    show Finset.Icc 1 n = Finset.Ioc 0 n from Finset.Icc_succ_left_eq_Ioc _ _,
    show 1 = Nat.card {I : Ideal (𝓞 K) // absNorm I = 0} by simp [Ideal.absNorm_eq_zero_iff],
    Finset.sum_Ioc_add_eq_sum_Icc (n.zero_le),
    ← Finset.card_preimage_eq_sum_card_image_eq (fun k _ ↦ finite_setOf_absNorm_eq k)]
```
Note that what you want to rewrite in the forst `show` is [Nat.Icc_succ_left](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Interval/Finset/Nat.html#Nat.Icc_succ_left), that is deprecated in favor of `Finset.Icc_succ_left_eq_Ioc`, that is definitionally equivalent, but not syntactically equal to `Nat.Icc_succ_left`, so `rw` doesn't work.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/DedekindZeta.lean:73]: @urkud I think you deprecated `Nat.Icc_succ_left` in #23422. Do you see a way of using `Finset.Icc_succ_left_eq_Ioc` in a `rw`?

**Comment by loefflerd** [comment]
> > If I make it a local notation that probably means that the results `residue_pos` and `residue_ne_zero` should be removed, right?
> 
> Hmm, we can keep them with some stupid names...

Hi folks, 

It looks like almost everything is settled here except the naming issue.

Among the various namings that have been proposed, the one I personally prefer is closer to the first suggestion from Riccardo: that the actual value (currently `residue`) should become `dedekindZeta_residue`; and the lemma stating that this is indeed the residue should be `tendsto_dedekindZeta_mul_sub_one_nhdsGT`, because `nhdsGT` is the standard name for the `𝓝[>]` filter. That way it's clear what names we should give to different versions of the residue computation (with limits along punctured neighbourhoods in C) once we have meromorphic continuation of the zeta function; and these will of course involve the same value `dedekindZeta_residue`, just different notions of limit.

This is indeed incompatible with `riemannZeta_residue_one`, but that name is not set in stone; perhaps it should be renamed to `tendsto_dedekindZeta_mul_sub_one_nhdsNE` (with a deprecation alias for the old name), but that is a matter for another PR. 

Best regards, David

**Comment by xroblot** [comment]
Hi David, thanks for the feedback. I think I prefer the solution where the value of the residue becomes  `dedekindZeta_residue` and the result is named `tendsto_dedekindZeta_mul_sub_one_nhdsGT` as you suggested and, in a future PR, the name of the residue computation for the Riemann Zeta function is changed to match. Indeed, since the expression for the residue is quite complicated, I think it would be easier to have a name for it. 

We could also make `dedekindZeta_residue` an abbrev so that it is easier to access to the actual value or/and add a `dedekindZeta_residue_def` result to replace it with the actual value.

**Comment by riccardobrasca** [comment]
> Hi David, thanks for the feedback. I think I prefer the solution where the value of the residue becomes `dedekindZeta_residue` and the result is named `tendsto_dedekindZeta_mul_sub_one_nhdsGT` as you suggested and, in a future PR, the name of the residue computation for the Riemann Zeta function is changed to match. Indeed, since the expression for the residue is quite complicated, I think it would be easier to have a name for it.
> 
> We could also make `dedekindZeta_residue` an abbrev so that it is easier to access to the actual value or/and add a `dedekindZeta_residue_def` result to replace it with the actual value.

OK, let's do that! Thanks a lot!!

bors d+
